US08211927B2
B: 4-Fluoro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid
To a solution of ethyl 4-fluoro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate (147 mg, 0.48 mmol) in tetrahydrofuran (2.5 mL) was added a solution of lithium hydroxide (20 mg, 0.83 mmol) in water (2.5 mL). After stirring for one hour, the reaction mixture was acidified to pH=2 with 1M HCl, and extracted three times with dichloromethane. The dichloromethane extracts were combined, dried over sodium sulfate and rotoevaporated to obtain the title compound (130 mg, 0.47 mmol).

reactant | ethyl 4-fluoro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylate | 0.48 mmol, 147 mg | FC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)OCC | C13H9F4NO3
reactant | lithium hydroxide | 0.83 mmol, 20 mg | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
product | 4-Fluoro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid | 0.47 mmol, 130 mg | FC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C11H5F4NO3
